US08071568B2
Step 2: (2S)-2-aminopropyl-2,2-dimethylpropanoate hydrochloride
To a solution of (2S)-2-[(tert-butoxycarbonyl)-amino]-propyl pivaloate (1.0 eq.) in EtOAc (0.6 M) was added 4N HCl in dioxane (10 eq.). The reaction mixture was stirred for 2.5 h and then the solvent was evaporated in vacuo to give a solid that was washed with Et2O and dried.

reactant | (2S)-2-[(tert-butoxycarbonyl)-amino]-propyl pivaloate | 1.0 eq. | C(C(C)(C)C)(=O)OC[C@H](C)NC(=O)OC(C)(C)C | C13H25NO4
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 10 eq. | O1CCOCC1 | C4H8O2
solvent | EtOAc | 0.6 M | CCOC(=O)C | C4H8O2
product | (2S)-2-aminopropyl-2,2-dimethylpropanoate hydrochloride | Cl.N[C@H](COC(C(C)(C)C)=O)C | InChI=1S/C8H17NO2.ClH/c1-6(9)5-11-7(10)8(2,3)4;/h6H,5,9H2,1-4H3;1H/t6-;/m0./s1
